US08865736B2
2,6-Difluoro-3-[2-(4-methoxy-phenyl)-oxazol-4-ylmethoxy]-benzamide
To a solution of 4-Chloromethyl-2-(4-methoxy-phenyl)-oxazole (0.100 g, 0.4 mmol) in 2 ml of anhydrous DMF was added 2,6-Difluoro-3-hydroxy-benzamide (0.077 g, 0.40 mmol) and potassium carbonate (0.216 g, 1.50 mmol). The reaction mixture was stirred at 25° C. for 24 h under nitrogen atmosphere. The reaction mixture was evaporated to dryness under reduced pressure and the residue was purified by column chromatography on silica (60-120 M) using ethyl acetate/hexane (50:50) as the eluent to provide the title compound as white solid (0.044 g, 27%). 1H NMR (DMSO-d6, 400 MHz): δ 4.01 (s, 3H), 5.12 (s, 2H), 7.10 (m, 3H), 7.40 (m, 1H), 7.85 (br s, 1H), 7.93 (d, J=8.80 Hz, 2H), 8.13 (br s, 1H) and 8.25 (s, 1H). MS ES+(361.16), HPLC (method I) Rt=15.47 min.

reactant | 4-Chloromethyl-2-(4-methoxy-phenyl)-oxazole | 0.4 mmol, 0.100 g | ClCC=1N=C(OC1)C1=CC=C(C=C1)OC | C11H10ClNO2
reactant | 2,6-Difluoro-3-hydroxy-benzamide | 0.40 mmol, 0.077 g | FC1=C(C(=O)N)C(=CC=C1O)F | C7H5F2NO2
reactant | potassium carbonate | 1.50 mmol, 0.216 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2,6-Difluoro-3-[2-(4-methoxy-phenyl)-oxazol-4-ylmethoxy]-benzamide | 0.044 g, 27% | FC1=C(C(=O)N)C(=CC=C1OCC=1N=C(OC1)C1=CC=C(C=C1)OC)F | C18H14F2N2O4
